US06831186B2
A solution of 2-[[(4S,5R)-5-[(1E,3E)-1,3-hexadien-5-ynyl]-2,2-dimethyl-1,3-dioxolan-4-yl]methoxy]ethanoic acid in THF was cooled in an ice bath and treated with a solution of trimethylsilyldiazomethane in THF in portions. Excess diazomethane was decomposed with acetic acid and the mixture was diluted with ether and washed with water, saturated sodium bicarbonate, water (2×), and brine, dried, treated with silica gel and concentrated. Purification by chromatography on silica gel using a gradient of ether in hexane gave 0.9 g of 2-[[(4S,5R)-5-[(1E,3E)-1,3-hexadien-5-ynyl]-2,2-dimethyl-1,3-dioxolan-4-yl]methoxy]ethanoic acid, methyl ester, a compound of formula (W), as an oil: 1H NMR (CDCl3) δ 1.37 (s, 3H), 1.51 (s, 3H), 3.06 (s, 1H), 3.49 (m, 2H), 3.74 (s, 3H), 4.16 (m, 2H), 4.42 (m, 1H), 4.65 (t, 1H), 5.60 (dd, 1H), 5.79 (dd, 1H), 6.33 (dd, 1H), 6.65 (dd, 1H) ppm.

reactant | 2-[[(4S,5R)-5-[(1E,3E)-1,3-hexadien-5-ynyl]-2,2-dimethyl-1,3-dioxolan-4-yl]methoxy]ethanoic acid | C(=C\C=C\C#C)/[C@@H]1[C@@H](OC(O1)(C)C)COCC(=O)O | C14H18O5
reactant | trimethylsilyldiazomethane | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
reactant | diazomethane | [N+](=[N-])=C | CH2N2
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | THF | C1CCOC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | 2-[[(4S,5R)-5-[(1E,3E)-1,3-hexadien-5-ynyl]-2,2-dimethyl-1,3-dioxolan-4-yl]methoxy]ethanoic acid, methyl ester | 0.9 g | C(=C\C=C\C#C)/[C@@H]1[C@@H](OC(O1)(C)C)COCC(=O)OC | C15H20O5
